US07572809B2
c) Preparation of 5-Methoxy-4-methyl-indan-1,2-dione-2-oxime
To a solution of 5-Methoxy-4-methyl-indan-1-one (3.1 g) in MeOH at 40° C. was added n-butylnitrite (2.5 mL) followed by concentrated HCl (2.3 ml). The solution was stirred for 30 min during which time a precipitate was formed. The precipitate was collected and dried to yield the crude product as a white solid.

reactant | 5-Methoxy-4-methyl-indan-1-one | 3.1 g | COC=1C(=C2CCC(C2=CC1)=O)C | C11H12O2
reactant | n-butylnitrite | 2.5 mL | C(CCC)ON=O | C4H9NO2
reactant | HCl | 2.3 ml | Cl | ClH
solvent | MeOH | CO | CH4O
product | 5-Methoxy-4-methyl-indan-1,2-dione-2-oxime | COC=1C(=C2CC(C(C2=CC1)=O)=NO)C | C11H11NO3
